US09079866B2
4-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]oxy}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 555 using 4-chloropyrimidin-2-amine and 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol. MS (ESI): mass calcd. for C21H14F4N6O, 442.12; m/z found, 443.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.51-8.43 (d, J=1.3, 2H), 8.06-7.94 (d, J=5.7, 1H), 7.72-7.69 (m, 1H), 7.69-7.66 (m, 1H), 7.55 (s, 1H), 7.52-7.47 (m, 1H), 7.39-7.31 (m, 2H), 6.31-6.03 (d, J=5.7, 1H).

reactant | 4-chloropyrimidin-2-amine | ClC1=NC(=NC=C1)N | C4H4ClN3
reactant | 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)O)F | C17H11F4N3O
product | 4-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]oxy}pyrimidin-2-amine | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)OC1=NC(=NC=C1)N)F | C21H14F4N6O
